US07612075B2
A. 1-Allyl-4-(tert-butyloxycarbonyl)-piperazin-2-one.
4-(tert-Butyloxycarbonyl)-piperazin-2-one (1.0 g, 5.0 mmol), EXAMPLE 40, is alkylated with allyl bromide (0.48 ml, 5.5 mmol) in THF (20 ml) using the procedure described in Example 92, Part A. The title compound (0.92 g, 3.8 mmol) is obtained as a colorless liquid after chromatographed (50% ethyl acetate/hexane). EI MS m/z 240 (M+); 1H NMR (CDCl3, 300 MHz) δ5.80-5.68 (m, 1H), 5.23-5.15 (m, 2H), 4.09 (s, 2H), 4.03 (d, 2H), 3.63 (t, 2H), 3,30 (t, 2H), 1.45 (s, 9H).

reactant | 4-(tert-Butyloxycarbonyl)-piperazin-2-one | 5.0 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | allyl bromide | 5.5 mmol, 0.48 ml | C(C=C)Br | C3H5Br
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-Allyl-4-(tert-butyloxycarbonyl)-piperazin-2-one | 3.8 mmol, 0.92 g | C(C=C)N1C(CN(CC1)C(=O)OC(C)(C)C)=O | C12H20N2O3
